US07906652B2
3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoic acid
A mixture of 112 mg (0.214 mmol) of ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate and 1.2 mL of 1M LiOH in 5 mL of EtOH was stirred for 2.5 h at rt. The solution was adjusted to pH=5-6 with 6N HCl and concentrated to remove solvents. The residue was dissolve in 10 mL of CH2Cl2 and solids were removed by filtration. The solution was concentrated to afford the title compound as a white solid; Mass Spectrum: m/e=495 (M+1, 35Cl), 497 (M+1, 37Cl).

reactant | ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate | 0.214 mmol, 112 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC(=CC=C1)C#N | C30H29ClF2N2O2
reactant | LiOH | 1M, 1.2 mL | [Li+].[OH-]
reactant | HCl | 6N | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoic acid | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)O)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H25ClF2N2O2
